US06369086B1
f) 4-{[(2-Oxo-1,2-dihydro-3H-pyrrolo[2,3-c]pyridin-3-ylidene)methyl]amino}benzenesulfonamide
To a 25-ml round-bottom flask was added 0.12 g (0.47 mmol) of 3-dimethylaminomethylene-1,6-diazainden-2(3H)-one, 0.081 g (0.47 mmol) of sulfanilamide, 10 ml of ethanol and two drops of concentrated hydrochloric acid. The reaction mixture was refluxed using an oil bath with stirring for 3 hours, then cooled and filtered. The collected solid was dissolved in a minimum volume of hot methanol. Upon cooling, a dark material deposited. The methanol solution was decanted and diluted to twice its volume with ethyl acetate. A light brown solid deposited after standing for 48 hours. The solid was isolated by filtration, dried, and redissolved in hot methanol (30 mL). The solution was concentrated to 20 mL and diluted with an equal volume of ethyl acetate. On cooling, a tan solid formed. The solid was isolated by filtration and washed with methanol/ethyl acetate to give 25 mg (17%) of the title compound. 1H NMR (DMSO-d6): δ7.42 (s, 2H), 7.82 (d, J=8.5 Hz, 2H), 7.90 (d, J=8.5 Hz, 2H), 8.28 (s, 1H), 8.11 (d, J=6.0 Hz, 1H), 8.38 (d, J=6.0 Hz, 1H), 9.35 (d, J=13.5 Hz, 1H), 11.53 (s, 1H), 11.60 (d, J=13.5 Hz, 1H), 14.6 (br s, 1H); C14H12N4O3S: APCI−MS m/z 315 (M−H).

reactant | 3-dimethylaminomethylene-1,6-diazainden-2(3H)-one | 0.47 mmol, 0.12 g | CN(C)C=C1C(NC2=CN=CC=C12)=O | C10H11N3O
reactant | sulfanilamide | 0.47 mmol, 0.081 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
catalyst | hydrochloric acid | two drops | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-{[(2-Oxo-1,2-dihydro-3H-pyrrolo[2,3-c]pyridin-3-ylidene)methyl]amino}benzenesulfonamide | 25 mg, 17% | O=C1C(C=2C(=CN=CC2)N1)=CNC1=CC=C(C=C1)S(=O)(=O)N | C14H12N4O3S
